US06335459B1
Platinum(IV) oxide (0.002 g, 0.032 mmol) was added to a solution of 3-(3-bromophenyl)acrylic acid tert-butyl ester (2.24 g, 7.90 mmol) in methanol (7 mL) and tetrahydrofuran (1 mL) at room temperature under a nitrogen atmosphere. The mixture was hydrogenated under a balloon pressure for 10 hours. The mixture was filtered and the filtrate was concentrated to dryness. Purification by flash chromatography, eluting with hexane/ethyl acetate, gave 3-(3-bromophenyl)propionic acid tert-butyl ester as a clear oil (1.32 g, 58%).

reactant | 3-(3-bromophenyl)acrylic acid tert-butyl ester | 7.90 mmol, 2.24 g | C(C)(C)(C)OC(C=CC1=CC(=CC=C1)Br)=O | C13H15BrO2
solvent | methanol | 7 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | Platinum(IV) oxide | 0.032 mmol, 0.002 g | [Pt](=O)=O
product | 3-(3-bromophenyl)propionic acid tert-butyl ester | 1.32 g, 58% | C(C)(C)(C)OC(CCC1=CC(=CC=C1)Br)=O | C13H17BrO2
